US04987232
1-Cyano-4-(N,N-dimethylamino)-1-ethoxycarbonyl-2-methyl-1,3-butadiene (25.0 g, 0.12 mol) prepared in a manner analogous to that described in Example (i) above in toluene (250 ml) was heated to 50° C. for 3 hours with stirring whereupon a steady stream of hydrogen chloride was passed through the reaction mixture. After cooling, the mixture was washed with water (250 ml). The aqueous layer was then extracted with toluene (3×100 ml). The pooled organic layers were dried with sodium sulphate and evaporated. Distillation of the residue in high vacuo yielded 2-chloro-4-methylnicotinic acid ethyl ester as colourless oil (15.3 g, 64% of theoretical yield) with b.pt.0.04 Torr 97° C.-98° C.

reactant | 1-Cyano-4-(N,N-dimethylamino)-1-ethoxycarbonyl-2-methyl-1,3-butadiene | 0.12 mol, 25.0 g | C(#N)C(=C(C=CN(C)C)C)C(=O)OCC | C11H16N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-methylnicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1C)Cl)=O | C9H10ClNO2
